US04042694
5,5-Dimethyl-10-[5-(piperidino)valeryloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d] pyridine hydrochloride (SP-158)
A mixture of 2.4 g. (6.06 mm.) of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 1.35 g. (6.06 mm.) of δ-piperidinovaleric acid hydrochloride and 1.30 g. (6.30 mm.) of dicyclohexylcarbodiimide in 100 ml. of methylene chloride was stirred at room temperature for 5 hours. The reaction mixture was cooled overnight in the refrigerator and the by-product of dicyclohexylurea removed by suction filtration. The mother liquor was evaporated to give a golden, viscous residue which was dissolved in a mixture of methylene chloride/cyclohexane and allowed to stand in the cold for 2 hours. Gravity filtration separated a small amount of solid which had appeared, and the solvents were removed using a rotary evaporator. Crystallization from methylene chloride/diethyl ether gave 2.5 g. (69%) of colorless crystals, m.p. 140°-144° C., The sample was pure by thin layer chromatography (10% MeOH/CHCl3) and the infrared and nuclear magnetic resonance spectra were in agreement with the proposed structure.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C2=C1CCN(C2)CC#C)C | C26H37NO2
reactant | δ-piperidinovaleric acid hydrochloride | Cl.N1(CCCCC1)CCCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride cyclohexane | C(Cl)Cl.C1CCCCC1
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 5,5-Dimethyl-10-[5-(piperidino)valeryloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d] pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCCN2CCCCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C36H54N2O3.ClH/c1-7-9-11-16-27(3)28(4)29-24-32(40-34(39)17-12-15-22-37-20-13-10-14-21-37)35-30-26-38(19-8-2)23-18-31(30)36(5,6)41-33(35)25-29;/h2,24-25,27-28H,7,9-23,26H2,1,3-6H3;1H
